US05994353
A suspension of 6-chloropyridazine-3-carboxamide (28.5 g, 0.18 mol) in methanol (200 ml) was treated with aqueous ethylamine (70% solution, 77 ml). The reaction was heated at reflux for 31/2 hours. The reaction was allowed to cool to ambient temperature and stand overnight. The precipitate was filtered and washed with a small volume of water and dried to give 6-(ethylamino)pyridazine-3-carboxamide as pink solid (8.9 g). [The filtrates were evaporated to a small volume diluted with cold water (100 ml) and more of the desired solid was filtered-off, washed with water and dried (12.8 g). Total yield (21.7 g, 72%)].

reactant | 6-chloropyridazine-3-carboxamide | 0.18 mol, 28.5 g | ClC1=CC=C(N=N1)C(=O)N | C5H4ClN3O
reactant | ethylamine | 77 ml | C(C)N | C2H7N
solvent | methanol | 200 ml | CO | CH4O
product | 6-(ethylamino)pyridazine-3-carboxamide | 8.9 g | C(C)NC1=CC=C(N=N1)C(=O)N | C7H10N4O
